US07696240B2
5-Fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-methylaminomethyl-1H-indole-2-carboxylic acid ethyl ester; salt with hydrogen chloride was converted to 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester as described in Example 77.1. which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid as a white solid. MS: 443.4 ([M−H]−).

reactant | 5-Fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-methylaminomethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1CNC)F)CC=1C2=C(SC1)C=CC(=C2)F | C22H20F2N2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1CN(C)C(=O)OC)F)CC=1C2=C(SC1)C=CC(=C2)F | C24H22F2N2O4S
product | 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid | FC=1C=C2C(=C(N(C2=CC1)CC=1C2=C(SC1)C=CC(=C2)F)C(=O)O)CN(C)C(=O)OC | C22H18F2N2O4S
